US07618961B2
3-Chloro-2-methyl-N-[4-(4-morpholinylmethyl)-1,3-thiazol-2-yl]benzenesulfonamide hydrochloride
A mixture of INTERMEDIATE 19 (0.50 g, 2.70 mmol) and morpholine (1.65 g, 18.92 mmol) was stirred at room temperature over night. The solvent was evaporated and the solid residue was purified by reversed phase flash chromatography on LiChroprep RP-18. The product was eluting with (1% CH3CN in H2O/0.5% conc. HCl) giving approximately a 1:1 mixture of 4-(4-morpholinylmethyl)-1,3-thiazol-2-amine dihydrochloride and morpholine (1.33 g). This material was sulphonylated with 3-chloro-2-methylbenzenesulphonyl chloride according to the preparation as described for EXAMPLE 205A giving 17 mg (6%) of a solid: 1H NMR (DMSO) δ 2.65 (s, 3H), 3.08 (br m, 4H), 3.78 (br m, 4H), 4.13 (br s, 2H), 7.07 (s, 1H), 7.40 (t, 1H), 7.68 (d, 1H), 7.91 (d, 1H); MS (Ionspray, [M+H]+) m/z 387.

reactant | morpholine | 18.92 mmol, 1.65 g | N1CCOCC1 | C4H9NO
reactant | 4-(4-morpholinylmethyl)-1,3-thiazol-2-amine dihydrochloride | Cl.Cl.N1(CCOCC1)CC=1N=C(SC1)N
reactant | morpholine | 1.33 g | N1CCOCC1 | C4H9NO
reactant | 3-chloro-2-methylbenzenesulphonyl chloride | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
product | 3-Chloro-2-methyl-N-[4-(4-morpholinylmethyl)-1,3-thiazol-2-yl]benzenesulfonamide hydrochloride | 17 mg, 6% | Cl.ClC=1C(=C(C=CC1)S(=O)(=O)NC=1SC=C(N1)CN1CCOCC1)C | InChI=1S/C15H18ClN3O3S2.ClH/c1-11-13(16)3-2-4-14(11)24(20,21)18-15-17-12(10-23-15)9-19-5-7-22-8-6-19;/h2-4,10H,5-9H2,1H3,(H,17,18);1H
